US08664401B2
2-methyl-4-(3-methyl-2-oxo-4-phenyl pyridin-1(2H)-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (137 mg, 0.296 mmol) was dissolved in methylene chloride (2 mL) at ambient temperature. To this solution was added HCl (4M in 1,4-dioxane, 2.22 mL, 8.88 mmol) and the slurry was stirred at ambient temperature for 15 minutes. Methanol (1 mL) was added followed by silica gel and the mixture was concentrated to dryness. Crude material was purified via silica gel chromatography eluting with methylene chloride/methanol to afford N-hydroxy-2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanamide as a solid. 65.8 mg

reactant | 2-methyl-4-(3-methyl-2-oxo-4-phenyl pyridin-1(2H)-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.296 mmol, 137 mg | CC(C(=O)NOC1OCCCC1)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C23H30N2O6S
reactant | HCl | 8.88 mmol, 4M, 2.22 mL | Cl | ClH
reactant | Methanol | 1 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanamide | ONC(C(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)(S(=O)(=O)C)C)=O | C18H22N2O5S
